US06743794B2
Phenylmethyl 2-((3S,1R)-3-{[5-methyl-3-(6-fluoro-2-iodophenyl)isoxazol-4-yl]carbonylamino}cyclohexyl)acetate
In a fashion similar to that described for preparation 99, a compound from preparation 45 (5.1 g, 14.7 mmol), dichloromethane (30 mL), TFA (30 mL), dichloromethane (150 mL), 3-(2-fluoro-6-iodo-phenyl)-5-methylisoxazole-4-carboxylic acid (6.39 g, 17.49 mmol), and Et3N (6.03 mL, 43.4 mmol) gave the title compound (7.15 g, 86%) after column chromatography (silica gel, hexanes/EtOAc gradient). Mass Spectrum (ES+) (m/z) 577.0 [M+1].

reactant | TFA | 30 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 3-(2-fluoro-6-iodo-phenyl)-5-methylisoxazole-4-carboxylic acid | 17.49 mmol, 6.39 g | FC1=C(C(=CC=C1)I)C1=NOC(=C1C(=O)O)C | C11H7FINO3
reactant | Et3N | 43.4 mmol, 6.03 mL | CCN(CC)CC | C6H15N
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | Phenylmethyl 2-((3S,1R)-3-{[5-methyl-3-(6-fluoro-2-iodophenyl)isoxazol-4-yl]carbonylamino}cyclohexyl)acetate | 7.15 g, 86% | CC1=C(C(=NO1)C1=C(C=CC=C1F)I)C(=O)N[C@@H]1C[C@@H](CCC1)CC(=O)OCC1=CC=CC=C1 | C26H26FIN2O4
